US04788130
An ethanol solution containing 120 g of 2,3-dihydro-7-hydroxy-4-methyl-6-(1-phenyl-2-propenyl)-1H-inden-1-one, 45 of hydroxylamine hydrochloride and 200 ml of pyridine in 1,200 ml of ethanol was refluxed for 4 hours. After the reaction was completed, the reaction mixture was concentrated to dryness under a reduced pressure, then the residue thus obtained was dissolved in 2 liters of ethyl acetate and washed three times with 1 liter of water each time, and the residue was dried again under a reduced pressure. Recrystallized from ethyl acetate/n-hexane mixture to obtain 90 g of 2,3-dihydro-7-hydroxy-4-methyl-6-(1-phenyl-2-propenyl)-1H-inden-1-one oxime. Light yellow flake-like crystals. Melting point: 146° C. (Decomposed).

reactant | 2,3-dihydro-7-hydroxy-4-methyl-6-(1-phenyl-2-propenyl)-1H-inden-1-one | 120 g | OC=1C(=CC(=C2CCC(C12)=O)C)C(C=C)C1=CC=CC=C1 | C19H18O2
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 1,200 ml | C(C)O | C2H6O
solvent | ethyl acetate | 2 liters | C(C)(=O)OCC | C4H8O2
product | 2,3-dihydro-7-hydroxy-4-methyl-6-(1-phenyl-2-propenyl)-1H-inden-1-one oxime | 90 g | OC=1C(=CC(=C2CCC(C12)=NO)C)C(C=C)C1=CC=CC=C1 | C19H19NO2
